US08981085B2
A mixture of N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-methylbutanamide (177 mg, 0.563 mmol), (R)-tert-butyl piperidin-3-ylcarbamate (339 mg, 1.69 mmol), and triethylamine (157 μL, 1.13 mmol) in n-BuOH (5 mL) was processed as in Example 56, Step B, and the crude was purified by C-18 reverse phase chromatography (Biotage 25M+) on Biotage SP4 unit eluting with a gradient of 15-85% CH3CN/water (25 CV) to provide (R)-tert-butyl 1-(5-bromo-3-(3-methylbutanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (109 mg, 39% yield) as a solid. LCMS (APCI+) m/z 494, 496 (M+H)+, Retention time=3.92 minutes (Method 2).

reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-methylbutanamide | 0.563 mmol, 177 mg | BrC=1C(=C2C(=NC1)NC=C2NC(CC(C)C)=O)F | C12H13BrFN3O
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 1.69 mmol, 339 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | triethylamine | 1.13 mmol, 157 μL | C(C)N(CC)CC | C6H15N
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
product | (R)-tert-butyl 1-(5-bromo-3-(3-methylbutanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 109 mg, 39% yield | BrC=1C(=C2C(=NC1)NC=C2NC(CC(C)C)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C22H32BrN5O3
